US04464300
12.1 g of 7-chloro-5-(2-fluorophenyl)-2-hydrazino-3H-1-benzazepine are heated to boiling under reflux for 2 hours in a mixture of 330 ml of n-butanol and 110 ml of triethyl orthoformate. The mixture is evaporated in vacuo. The residue is crystallized from hexane, there being obtained crude 8-chloro-6-(2-fluorophenyl)-4H-s-triazolo[4,3-a][1]benzazepine as reddish coloured crystals. This material is purified by chromatography on 121 g of silica gel. Impurities are eluted with benzene/methanol (99:1). The product is subsequently eluted with benzene/methanol (98.5:1.5 and 98:2). After crystallization of the resulting material from ether, there is obtained 8-chloro-6-(2-fluorophenyl)-4H-s-triazolo[4,3-a][1]benzazepine of melting point 180°-182°.

reactant | 7-chloro-5-(2-fluorophenyl)-2-hydrazino-3H-1-benzazepine | 12.1 g | ClC=1C=CC2=C(C(=CCC(=N2)NN)C2=C(C=CC=C2)F)C1 | C16H13ClFN3
reactant | n-butanol | 330 ml | C(CCC)O | C4H10O
solvent | triethyl orthoformate | 110 ml | C(OCC)(OCC)OCC | C7H16O3
product | 8-chloro-6-(2-fluorophenyl)-4H-s-triazolo[4,3-a][1]benzazepine | ClC=1C=CC2=C(C(=CCC=3N2C=NN3)C3=C(C=CC=C3)F)C1 | C17H11ClFN3
